US06538004B2
4-(3-iodo-4-methylphenyl)-1-methyl-1,2,4,9-tetrahydropyrano[3,4-b]pyrazolo[4,3-e]pyridine-3,5(6H,8H)-dione
2H-Pyran-3,5(4H,6H)-dione (0.085 g, 0.75 mmol), 3-iodo4-methyl-benzaldehyde (0.18 g, 0.75 mmol), and 5-amino-1-methyl-1,2-dihydropyrazol-3-one (0.084 g, 0.75 mmol) were processed as described in Example 26C to provide 0.14 g of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 2.38 (s, 3H), 3.49 (s, 3H), 4.0 (s, 2H), 4.52 (q, 2H), 4.88 (s, 1H), 7.05 (dd, 1H), 7.16(d, 1H), 7.56 (d, 1H), 9.58 (bs, 1H), 10.03 (s, 1H); MS (ESI−) m/z 436 (M−H)−; Anal. calcd for C17H16N3IO3.0.5 C2H5OH: C, 46.97;H, 4.16; N, 9.13. Found: C, 46.60;H, 4.42; N, 9.32.

reactant | 2H-Pyran-3,5(4H,6H)-dione | 0.75 mmol, 0.085 g | O1CC(CC(C1)=O)=O | C5H6O3
reactant | 3-iodo4-methyl-benzaldehyde | 0.75 mmol, 0.18 g | IC=1C=C(C=O)C=CC1C | C8H7IO
reactant | 5-amino-1-methyl-1,2-dihydropyrazol-3-one | 0.75 mmol, 0.084 g | NC1=CC(NN1C)=O | C4H7N3O
product | 4-(3-iodo-4-methylphenyl)-1-methyl-1,2,4,9-tetrahydropyrano[3,4-b]pyrazolo[4,3-e]pyridine-3,5(6H,8H)-dione | 0.14 g | IC=1C=C(C=CC1C)C1C2=C(NC3=C1C(NN3C)=O)COCC2=O | C17H16IN3O3
